US09290468B2
Step 3: benzyl 4-azido-5-(benzyloxy)-2-((2-chlorophenyl)amino)-3-fluorobenzoate
To a solution of benzyl 5-(benzyloxy)-2-((2-chlorophenyl)amino)-3,4-difluorobenzoate (27.82 g, 57.97 mmol) in DMF (250 mL) was added NaN3 (4.52 g, 69.56 mmol). The mixture was stirred at 90° C. for 3 h. Then water (400 mL) was added. The solution was extracted with ethyl acetate (150 mL×3). The combined organic extracts were washed with water (150 mL) and brine (150 mL), dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel (petroleum ether/ethyl acetate, 50:1, v/v) and gave the desired product (pale yellow solid, 22.97 g, 78.8% yield). 1H NMR (400 MHz, CDCl3): δ 8.41 (s, 1H), 7.40 (m, 12H), 7.13 (m, 1H), 6.87 (m, 1H), 6.69 (m, 1H), 5.34 (s, 2H), 5.17 (s, 2H).

reactant | benzyl 5-(benzyloxy)-2-((2-chlorophenyl)amino)-3,4-difluorobenzoate | 57.97 mmol, 27.82 g | C(C1=CC=CC=C1)OC=1C(=C(C(=C(C(=O)OCC2=CC=CC=C2)C1)NC1=C(C=CC=C1)Cl)F)F | C27H20ClF2NO3
reactant | NaN3 | 69.56 mmol, 4.52 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 400 mL | O | H2O
solvent | DMF | 250 mL | CN(C)C=O | C3H7NO
product | benzyl 4-azido-5-(benzyloxy)-2-((2-chlorophenyl)amino)-3-fluorobenzoate | 22.97 g, 78.8% yield | N(=[N+]=[N-])C1=C(C(=C(C(=O)OCC2=CC=CC=C2)C=C1OCC1=CC=CC=C1)NC1=C(C=CC=C1)Cl)F | C27H20ClFN4O3
